US07476764B2
Step 1: Preparation of 3-amino-5-(methoxycarbonyl)benzoic acid.
A suspension of 3-(methoxycarbonyl)-5-nitrobenzoic acid (11.25 g, 50 mmol) and palladium on carbon (10 wt %, 1.0 g) in MeOH (10 mL) was shaken in hydrogenator under hydrogen at 50 psi for 3 h. The mixture was filtered and concentrated in vacuo to give the title compound (8.0 g, 82% yield): 1H NMR (CD3OD, 500 MHz) δ ppm 3.91 (3H, s), 7.53 (1H, m), 7.55 (1H, m), 7.92 (1H, m). HPLC retention time: 0.922 min (method A). MS (ESI) (M+H)+ 196.12.

reactant | 3-(methoxycarbonyl)-5-nitrobenzoic acid | 50 mmol, 11.25 g | COC(=O)C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C9H7NO6
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | MeOH | 10 mL | CO | CH4O
product | 3-amino-5-(methoxycarbonyl)benzoic acid | 8.0 g, 82% yield | NC=1C=C(C(=O)O)C=C(C1)C(=O)OC | C9H9NO4
